US05502073
Diethylzinc (40 ml. 1.1M solution in toluene) was added dropwise to a solution of ethyl 4-methylpent-4-enoate (1.25 g.) in dry hexane (100 ml.) at -20° under nitrogen After stirring for 10 minutes diiodomethane (23.6 g.) was added dropwise and the mixture maintained at -20° for 6 hours. The mixture was allowed to warm to room temperature, aqueous ammonium chloride solution (60 ml.) added and the two layers separated. The aqueous layer was extracted with diethyl ether (3×50 ml.) and the combined organic extracts washed with sodium thiosulphate solution (50 ml.) and water (50 ml.). The extracts were dried over anhydrous magnesium sulphate and evaporated in vacuo. Chromatography on silica, eluting with diethyl ether/hexane mixtures, gave ethyl 3-(1-methylcyclopropyl)propanoate as a colourless oil (1.21 g.).

reactant | Diethylzinc | 1.1M, 40 ml | C(C)[Zn]CC
reactant | ethyl 4-methylpent-4-enoate | 1.25 g | CC(CCC(=O)OCC)=C | C8H14O2
reactant | diiodomethane | 23.6 g | ICI | CH2I2
reactant | ammonium chloride | 60 ml | [Cl-].[NH4+]
solvent | hexane | 100 ml | CCCCCC | C6H14
product | ethyl 3-(1-methylcyclopropyl)propanoate | CC1(CC1)CCC(=O)OCC | C9H16O2
